US05185370
4-[(3-Cyanophenyl)methylene]-3,5-heptanedione
The procedure described in Example 19 was repeated by using 1.82 g 3-cyanobenzaldehyde and 3.5 g 3,5-heptanedione. Yield 0.4 g, mp 51°-52° C.

reactant | 3-cyanobenzaldehyde | 1.82 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 3,5-heptanedione | 3.5 g | CCC(CC(CC)=O)=O | C7H12O2
product | 4-[(3-Cyanophenyl)methylene]-3,5-heptanedione | C(#N)C=1C=C(C=CC1)C=C(C(CC)=O)C(CC)=O | C15H15NO2
